US04166854
To a stirred solution of 14.5 g (0.05 mole) of 1-bromo-1-(6-fluoro-2-pyridinyloxy)-3,3-dimethyl-2-butanone in 75 ml acetone cooled to -10° C. was added 3.4 g (0.05 mole) imidazole. Then, 7.61 g (0.05 mole) of 1,5-diaza(5.4.0)undec-5-ene was added dropwise. After the addition was complete, the mixture was stirred for 30 minutes at 0° C. and the solvent evaporated. Water was added to the residue and the mixture extracted with diethyl ether. The ether extract was dried using magnesium sulfate and the solvent evaporated. Chromatography on silica gel (8:2 hexane:acetone) gave 6.3 g (55% yield) of 1-(6-fluoro-2-pyridinyloxy)-3,3-dimethyl-1-(imidazol-1-yl)-2-butanone. Recrystallization from hexane gave product melting at 90°-93° C.

reactant | 1-bromo-1-(6-fluoro-2-pyridinyloxy)-3,3-dimethyl-2-butanone | 0.05 mole, 14.5 g | BrC(C(C(C)(C)C)=O)OC1=NC(=CC=C1)F | C11H13BrFNO2
reactant | imidazole | 0.05 mole, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | 1,5-diaza(5.4.0)undec-5-ene | 0.05 mole, 7.61 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1-(6-fluoro-2-pyridinyloxy)-3,3-dimethyl-1-(imidazol-1-yl)-2-butanone | 6.3 g, 55% yield | FC1=CC=CC(=N1)OC(C(C(C)(C)C)=O)N1C=NC=C1 | C14H16FN3O2
